US04735885
Synthesis of 1-(1-butyl)-3-cyclohexyl-5-diazobarbituric acid
80 mL of reagent grade acetonitrile and 6.65 gm (0.025 mole) of 1-(1-butyl)-3-cyclohexylbarbituric acid were added to a dry 250 mL 3-neck round bottom flask equipped with a thermometer, pressure equalizing dropping funnel capped by a drying tube, nitrogen inlet and magnetic stirrer. The stirred solution was cooled to 2° C. in an ice bath. Then a solution of 5.75 gm (0.029 mole) of p-toluenesulfonyl azide in 20 mL of acetonitrile was added to the reaction flask. A solution of 3.20 gm (0.0317 mole) of triethylamine in 20 mL of reagent grade dichloromethane was placed in the dropping funnel and slowly added to the reaction flask, while keeping the temperature below 3° C. The flask temperature was kept below 3° C. for 1 hour. The stirred reaction flask was allowed to warm to room temperature (20° C.) and kept at room temperature for 12 hours.

reactant | 1-(1-butyl)-3-cyclohexylbarbituric acid | 0.025 mole, 6.65 gm | C(CCC)N1C(=O)N(C(=O)CC1=O)C1CCCCC1 | C14H22N2O3
reactant | p-toluenesulfonyl azide | 0.029 mole, 5.75 gm | C1(=CC=C(C=C1)S(=O)(=O)N=[N+]=[N-])C | C7H7N3O2S
reactant | triethylamine | 0.0317 mole, 3.20 gm | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 1-(1-butyl)-3-cyclohexyl-5-diazobarbituric acid | C(CCC)N1C(=O)N(C(=O)C(C1=O)=[N+]=[N-])C1CCCCC1 | C14H20N4O3
